US07579473B2
To a mixture of cyclobutane-1,1-dicarboxylic acid (10.0 g, 69.4 mmol, 1.0 eq.) in anhydrous THF (100 mL) under nitrogen was added dropwise triethylamine (7.02 g, 69.4 mmol, 1.0 eq.) with stirring for 30 minutes at 0° C., followed by the addition of thionyl chloride (8.25 g, 69.4 mmol, 1.0 eq.) with stirring for another 30 minutes at 0° C. To the resulting mixture under nitrogen was added dropwise a solution of 4-fluoroaniline (8.48 g, 76.3 mmol, 1.1 eq.) in anhydrous THF (50 mL) with stirring for 1.5 hours at 0° C. The reaction mixture was diluted with ethyl acetate and extracted with 2N NaOH. The aqueous phase was titrated with 2N HCl to pH 1-2 and then extracted with ethyl acetate. The organic phase was dried with sodium sulfate and concentrated in vacuo to give 1-(4-fluoro-phenylcarbamoyl)-cyclobutanecarboxylic acid as a light pink solid (5.75 g, 34.9%). 1H NMR (400 MHz, CDCl3 w/5 drop CD3OD): 7.53-7.48 (m, 2H), 7.06-7.00 (m, 2H), 2.81-2.63 (m, 4H), 2.14-2.02 (m, 2H).

reactant | cyclobutane-1,1-dicarboxylic acid | 69.4 mmol, 10.0 g, 1.0 eq. | C1(CCC1)(C(=O)O)C(=O)O | C6H8O4
reactant | triethylamine | 69.4 mmol, 7.02 g, 1.0 eq. | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 69.4 mmol, 8.25 g, 1.0 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | 4-fluoroaniline | 76.3 mmol, 8.48 g, 1.1 eq. | FC1=CC=C(N)C=C1 | C6H6FN
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluoro-phenylcarbamoyl)-cyclobutanecarboxylic acid | 5.75 g, 34.9% | FC1=CC=C(C=C1)NC(=O)C1(CCC1)C(=O)O | C12H12FNO3
